US07005432B2
1-Bromo-4-chloro-3-fluorobenzene (1 g, 4.8 mmol), bis(pinacolato)diboron (1.33 g, 5.3 mmol), potassium acetate (1.4 g, 14.3 mmol) and bis(triphenylphosphine)palladium dichloride (0.2 g, 0.29 mmol) were suspensed in dioxane (20 ml). The yellow suspension was flushed with argon for 30 minutes and refluxed for 12 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed over silica gel (hexane-ethyl acetate 99:1) to provide 2-(4-chloro-3-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.7 g, 59%) as a colorless oil, MS: m/e=256.2 (M+).

reactant | 1-Bromo-4-chloro-3-fluorobenzene | 4.8 mmol, 1 g | BrC1=CC(=C(C=C1)Cl)F | C6H3BrClF
reactant | bis(pinacolato)diboron | 5.3 mmol, 1.33 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 14.3 mmol, 1.4 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium dichloride | 0.29 mmol, 0.2 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-chloro-3-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.7 g, 59% | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C12H15BClFO2
